US07371773B2
Production of (Z)-3-(3,4-dihydroxy-phenyl)-2-(3,4-dimethoxy-phenyl)-acrylonitrile (Compound 8)
The hydroxyl groups of 3,4-dihydroxybenzaldehyde (2.0 g) were protected by use of 2-methoxyethoxymethyl chloride (3.6 g) in accordance with (production process 1), to thereby produce 3,4-bis(methoxyethoxymethoxy)benzaldehyde (3.6 g, yield: 89%). The thus-produced 3,4-bis(methoxyethoxymethoxy)benzaldehyde (3.5 g) and 3,4-dimethoxybenzyl cyanide (2.0 g) were subjected to condensation in accordance with process A of (production process 2), to thereby yield an MEM form of the target product. Subsequently, the protective group was removed from the MEM form in accordance with (production process 3), to thereby produce the target product (1.6 g, yield: 50%).

reactant | 3,4-bis(methoxyethoxymethoxy)benzaldehyde | 3.5 g | COCCOCOC=1C=C(C=O)C=CC1OCOCCOC | C15H22O7
reactant | 3,4-dimethoxybenzyl cyanide | 2.0 g | COC=1C=C(CC#N)C=CC1OC | C10H11NO2
product | (Z)-3-(3,4-dihydroxy-phenyl)-2-(3,4-dimethoxy-phenyl)-acrylonitrile | 1.6 g, yield: 50% | OC=1C=C(C=CC1O)\C=C(/C#N)\C1=CC(=C(C=C1)OC)OC | C17H15NO4
